US06362206B1
4-[4-[5-Oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1H,4H-1,2,4-triazol-1-yl]phenyl]semicarbazide (4.75 g) was added to N,N-dimethylformamide (60 ml). To the mixture were added acetic acid (4 g) and formamidine acetate (6 g), and the resulting mixture was stirred at room temperature for 3 hours and then at 80° C. for 1.5 hours. After cooling, the reaction solution was diluted with water (30 ml). The precipitated crystals were collected by filtration and washed with water (100 ml). The crystals were dried and dissolved in a mixture of tetrahydrofuran (300 ml) and ethyl acetate (600 ml) with warming. The solution thus obtained was dried over anhydrous magnesium sulfate, filtrated and concentrated under reduced pressure. Ethyl acetate (50 ml) was added to the residue and the precipitated crystals were collected by filtration and recrystallized from tetrahydrofuran to give 4-[4-[5-oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)-phenyl]-1H,4H-1,2,4-triazol-1-yl]phenyl]-3(2H,4H)-1,2,4-triazolone (2.4 g, 49%) as a white crystalline powder.

reactant | 4-[4-[5-Oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1H,4H-1,2,4-triazol-1-yl]phenyl]semicarbazide | 4.75 g | O=C1N(C=NN1C1=CC=C(C=C1)NC(NN)=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F | C18H16F4N6O3
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | acetic acid | 4 g | C(C)(=O)O | C2H4O2
reactant | formamidine acetate | 6 g | C(C)(=O)O.C(=N)N
solvent | water | 30 ml | O | H2O
product | 4-[4-[5-oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)-phenyl]-1H,4H-1,2,4-triazol-1-yl]phenyl]-3(2H,4H)-1,2,4-triazolone | 2.4 g, 49% | O=C1N(C=NN1C1=CC=C(C=C1)N1C(NN=C1)=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F | C19H14F4N6O3
